US07834021B2
To a solution of 2.6 g (12 mmol) of dimethyl 2,2′-(1,3-dioxolane-2,2-diyl)diacetate in 100 mL of dry THF was added 1.4 g (36 mmol) of LAH at 0° C. The reaction mixture was then refluxed for 1 h, was quenched with 15% NaOH aqueous solution (3 mL) and water (3 mL). The mixture was stirred overnight, filtered through celite. The residue was washed twice with THF (100 mL×2). The combined organic phase was evaporated. Chromatography on silica gel afforded 1.3 g (8.0 mmol, yield: 66%) of 2,2′-(1,3-dioxolane-2,2-diyl)diethanol: MS (m/e): 163 (M+1)+.

reactant | dimethyl 2,2′-(1,3-dioxolane-2,2-diyl)diacetate | 12 mmol, 2.6 g | O1C(OCC1)(CC(=O)OC)CC(=O)OC | C9H14O6
reactant | LAH | 36 mmol, 1.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2,2′-(1,3-dioxolane-2,2-diyl)diethanol | 8.0 mmol, 1.3 g, yield: 66% | O1C(OCC1)(CCO)CCO | C7H14O4
